US04927926
A solution of 0.4 g (1.10 mmoles) of ethyl 1-cyclopropyl-6,8-difluoro-7-(3-hydroxy-1-azetidinyl)-1,4-dihydro-4-oxo-3-quinolinecarboxylate, 2 ml of ethanol and 10 ml of 0.5N sodium hydroxide is left to reflux for 1.5 hours. It is then allowed to cool, diluted with water, adjusted to pH 5 and a precipitate is obtained which is filtered and washed with water. The solid is dried under vacuum yielding 0.37 g (100%) of 1-cyclopropyl-6,8-difluoro-7-(3-hydroxy-1-azetidinyl)-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid melting at 286°-288° C.

reactant | ethyl 1-cyclopropyl-6,8-difluoro-7-(3-hydroxy-1-azetidinyl)-1,4-dihydro-4-oxo-3-quinolinecarboxylate | 1.10 mmoles, 0.4 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)N1CC(C1)O)F)=O)C(=O)OCC | C18H18F2N2O4
reactant | ethanol | 2 ml | C(C)O | C2H6O
reactant | sodium hydroxide | 0.5N, 10 ml | [OH-].[Na+]
solvent | water | O | H2O
product | 1-cyclopropyl-6,8-difluoro-7-(3-hydroxy-1-azetidinyl)-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 0.37 g, 100% | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)N1CC(C1)O)F)=O)C(=O)O | C16H14F2N2O4
